US03998954
2-Isopropyl-5,6,7,8-tetrahydroisoquinoline-1,3(2H,4H)-dione
A mixture of tetrahydrohomophthalic acid (92 g., 0.5 mole) and isopropylamine (59 g., 1 mole) is heated by an oil bath until molten for 90 minutes. The hot mixture is then poured into 600 ml. of ethanol, treated with carbon black and filtered. The mixture is concentrated to about 300 ml. and slowly cooled to room temperature. 2-Isopropylisoquinoline-1,3(2H,4H)-dione precipitates and is collected by filtration.

reactant | tetrahydrohomophthalic acid | 0.5 mole, 92 g | C(CC1C(C(=O)O)CCC=C1)(=O)O | C9H12O4
reactant | isopropylamine | 1 mole, 59 g | C(C)(C)N | C3H9N
reactant | carbon black | C | CH4
solvent | ethanol | C(C)O | C2H6O
product | 2-Isopropyl-5,6,7,8-tetrahydroisoquinoline-1,3(2H,4H)-dione | C(C)(C)N1C(C=2CCCCC2CC1=O)=O | C12H17NO2
